US04395547
To 40 g (0.309 moles) of 3-oximino-2,4-pentanedione dissolved in 200 ml of n-butanol was added 39.92 g (0.341 moles) of d,l-norvaline. The resulting mixture was brought to reflux, while stirring rapidly under nitrogen with an oil bath. After 19.3 h the reaction mixture was cooled, and then suction filtered. The residue was washed with ethyl acetate (100 ml) and the combined filtrates concentrated in vacuo. The resulting oil was dissolved in ethyl acetate (200 ml) and extracted with three 50 ml portions of 5% aqueous sodium hydroxide solution. Removal of the solvent in vacuo gave 0.15 moles (55.7% yield based on recovered d,l-norvaline) of 5-acetyl-4-methyl-2-propylimidazole.

reactant | 3-oximino-2,4-pentanedione | 0.309 moles, 40 g | N(O)=C(C(C)=O)C(C)=O | C5H7NO3
reactant | d,l-norvaline | 0.341 moles, 39.92 g | NC(CCC)C(=O)O | C5H11NO2
solvent | n-butanol | 200 ml | C(CCC)O | C4H10O
product | 5-acetyl-4-methyl-2-propylimidazole | 0.15 moles, 55.7% yield | C(C)(=O)C1=C(N=C(N1)CCC)C | C9H14N2O
